US07405233B2
The methyl ester of 3-[3-(4-iodophenyl)-2-oxo-imidazolidin-1-yl]benzoic acid (0.42 g, 1.0 mmol) prepared as in Example 13 was mixed with 2-pyrolidinone (0.10 g, 0.09 mL, 1.2 mmol), CuI (0.02 g, 0.10 mmol), Cs2CO3 (0.65 g, 2.0 mmol), trans-1,2-hexanediamine (0.01 g, 0.01 mL, 0.1 mmol) and dioxane (5 mL). The mixture was heated at 110° C. with stirring for 12 h under nitrogen. After cooling to room temperature, the mixture was diluted with water (10 mL) and extracted with dichloromethane (10 mL×3) and the combined extracts were washed with water, brine and dried over anhydrous Na2SO4, and then concentrated. The crude product obtained after the removal of the solvent was chromatographed (silica, dichloromethane:ethyl acetate, 9:1) to provide pure product, 3-{2-oxo-3-[4-(2-oxo-pyrrolidin-1-yl)phenyl]imidazolidin-1-yl}benzoic acid methyl ester, as white solid (0.34 g, 89.5%). MS (ES+) m/z: 380.

reactant | 3-[3-(4-iodophenyl)-2-oxo-imidazolidin-1-yl]benzoic acid | 1.0 mmol, 0.42 g | IC1=CC=C(C=C1)N1C(N(CC1)C=1C=C(C(=O)O)C=CC1)=O | C16H13IN2O3
reactant | 2-pyrolidinone | 1.2 mmol, 0.09 mL, 0.10 g | N1C(CCC1)=O | C4H7NO
reactant | Cs2CO3 | 2.0 mmol, 0.65 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | CuI | 0.10 mmol, 0.02 g | [Cu]I
product | 3-{2-oxo-3-[4-(2-oxo-pyrrolidin-1-yl)phenyl]imidazolidin-1-yl}benzoic acid methyl ester | COC(C1=CC(=CC=C1)N1C(N(CC1)C1=CC=C(C=C1)N1C(CCC1)=O)=O)=O | C21H21N3O4
